US05304560
To a suspension of 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-5-nitro-1,2-dihydro-4H-3,1-benzoxazine-2,4-dione hydrobromide (410 mg) in dimethylformamide (4 ml) was added 28% ammonium hydroxide (1 ml) on an ice-bath, and the mixture was stirred for 1 hour at room temperature. The mixture was poured into ice-water, extracted with ethyl acetate, and the extracts were washed with water and brine. After dryness with magnesium sulfate and evaporation of the solvent, 2-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butylamino]-6nitrobenzamide was obtained as an amorphous (300 mg).

reactant | 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-5-nitro-1,2-dihydro-4H-3,1-benzoxazine-2,4-dione hydrobromide | 410 mg | Br.C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(OC(C2=C1C=CC=C2[N+](=O)[O-])=O)=O
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butylamino]-6nitrobenzamide | C1(=CC=CC=C1)C=1CCN(CC1)CCCCNC1=C(C(=O)N)C(=CC=C1)[N+](=O)[O-] | C22H26N4O3
